US05624935
3-Amino-2-phenylaminopyridine
A procedure similar to that described in Example 6 was repeated, except that 6.9 g of 3-nitro-2-phenylaminopyridine (prepared as described in Preparation 83) was hydrogenated in a mixture of 150 ml of ethanol and 50 ml of dioxane in the presence of 1.38 g of 10% w/w palladium-on-charcoal. After working up the product as described in Example 6, 4.2 g of the title compound, melting at 137°-140° C., were obtained.

reactant | 3-nitro-2-phenylaminopyridine | 6.9 g | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC=CC=C1 | C11H9N3O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3-Amino-2-phenylaminopyridine | 4.2 g | NC=1C(=NC=CC1)NC1=CC=CC=C1 | C11H11N3
